US05025036
To 0.98 g (2.07 mmol) of 4-[[6-(3,4-dimethoxy-2,5,6-trimethylphenyl)-6-oxohexyl]oxy]-2-hydroxy-3-propylbenzoic acid in 100 mL of methylene chloride cooled at -75° was added 7 mL (7 mmol) of 1M boron tribromide in methylene chloride. The reaction mixture was stirred at -75° for 30 minutes and then was kept at -20° for 18 hours. Workup as in Example 32 and recrystallization of the crude product from ether-hexane gave 0.51 g, mp 169°-170° of 4-[[6-(3,4-dihydroxy-2,5,6-trimethylphenyl)-6-oxohexyl]oxy]-2-hydroxy-3-propylbenzoic acid.

reactant | 4-[[6-(3,4-dimethoxy-2,5,6-trimethylphenyl)-6-oxohexyl]oxy]-2-hydroxy-3-propylbenzoic acid | 2.07 mmol, 0.98 g | COC=1C(=C(C(=C(C1OC)C)C)C(CCCCCOC1=C(C(=C(C(=O)O)C=C1)O)CCC)=O)C | C27H36O7
reactant | boron tribromide | 7 mmol, 1M, 7 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-[[6-(3,4-dihydroxy-2,5,6-trimethylphenyl)-6-oxohexyl]oxy]-2-hydroxy-3-propylbenzoic acid | 0.51 g | OC=1C(=C(C(=C(C1O)C)C)C(CCCCCOC1=C(C(=C(C(=O)O)C=C1)O)CCC)=O)C | C25H32O7
